US08859566B2
To a solution of 8-(1-Benzyl-1H-pyrazol-4-yl)-2-chloro-1-propyl-1,7-dihydro-purin-6-one (0.05 g, 0.136 mmol) in THF (5 ml) under argon was added Diisopropyl ethyl amine (0.05 g, 0.407 mmol) and 1M dimethyl amine in methanol (0.061 g, 1.36 mmol). The reaction mixture was heated at 50° C. for overnight. The reaction mixture concentrated under reduced pressure. The residue obtained was purified by column chromatography to obtain 8-(1-Benzyl-1H-pyrazol-4-yl)-2-methoxy-1-propyl-1,7-dihydro-purin-6-one (0.005 g, 10%) as a white solid.

reactant | 8-(1-Benzyl-1H-pyrazol-4-yl)-2-chloro-1-propyl-1,7-dihydro-purin-6-one | 0.136 mmol, 0.05 g | C(C1=CC=CC=C1)N1N=CC(=C1)C1=NC=2N=C(N(C(C2N1)=O)CCC)Cl | C18H17ClN6O
reactant | Diisopropyl ethyl amine | 0.407 mmol, 0.05 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethyl amine | 1M | CNC | C2H7N
reactant | methanol | 1.36 mmol, 0.061 g | CO | CH4O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 8-(1-Benzyl-1H-pyrazol-4-yl)-2-methoxy-1-propyl-1,7-dihydro-purin-6-one | 0.005 g, 10% | C(C1=CC=CC=C1)N1N=CC(=C1)C1=NC=2N=C(N(C(C2N1)=O)CCC)OC | C19H20N6O2
